US07947683B2
methyl 2,2-dimethyl-4-pentenoate
To a solution of diisopropilamide (7.6 ml) in THF (12 ml) was added drop by drop n-butil lithium (2.5M in hexane, 21.6 ml) at −78° C. After stirring the reaction mixture at −78° C. for 30 minutes, a solution of methyl isobutyrate (5 g) in THF (12 ml) was added in 10 minutes and the mixture stirred at −78° C. for 1 h. A solution of allyl bromide (4.7 ml) in THF (12 ml) was dropped into the mixture reaction and it was stirred at −78° C. for 1 h. After adding some drop of water, volatiles were evaporated in vacuo, the crude dissolved in ethyl acetate, washed with water and dried over Na2SO4. After filtration volatiles were evaporated in vacuo to give 1.8 g of the title compound as a yellow pale liquid, which was used without further purification.

reactant | lithium | 2.5M, 21.6 ml | [Li] | Li
reactant | methyl isobutyrate | 5 g | C(C(C)C)(=O)OC | C5H10O2
reactant | allyl bromide | 4.7 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | THF | 12 ml | C1CCOC1 | C4H8O
product | methyl 2,2-dimethyl-4-pentenoate | 1.8 g | CC(C(=O)OC)(CC=C)C | C8H14O2
